US08232284B2
Preparation of 5-chloro-N-[3-(dimethylamino)propyl]-N-methyl-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridine-3-sulfonamide
5,6-Dichloro-N-[3-(dimethylamino)propyl]-N-methylpyridine-3-sulfonamide (122 mg, 0.37 mmol) and potassium tert-butoxide (58 mg, 0.52 mmol) were added to an N,N-dimethylacetamide solution (1 ml) of 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol (50 mg, 0.21 mmol), and stirred under a nitrogen atmosphere at 100° C. for 2.5 hours. The reaction solution was cooled with ice, saline water was added, and extracted with chloroform/methanol (9:1). The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by amine-type silica gel column chromatography (Biotage NH, hexane:ethyl acetate:chloroform to chloroform:methanol=2:4:1 to 100:2) to obtain the entitled compound (75 mg, yield: 68%) as a pale orange amorphous solid.

reactant | 5,6-Dichloro-N-[3-(dimethylamino)propyl]-N-methylpyridine-3-sulfonamide | 0.37 mmol, 122 mg | ClC=1C=C(C=NC1Cl)S(=O)(=O)N(C)CCCN(C)C | C11H17Cl2N3O2S
reactant | potassium tert-butoxide | 0.52 mmol, 58 mg | CC(C)([O-])C.[K+]
reactant | N,N-dimethylacetamide | 1 ml | CN(C(C)=O)C | C4H9NO
reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | 0.21 mmol, 50 mg | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
solvent | water | O | H2O
product | 5-chloro-N-[3-(dimethylamino)propyl]-N-methyl-6-({4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridine-3-sulfonamide | 75 mg, yield: 68% | ClC=1C=C(C=NC1OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C)S(=O)(=O)N(C)CCCN(C)C | C23H27ClN8O3S
